US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[4-(3-morpholin-4-yl-phenyl)-3-phenyl-piperidin-1-yl]-methanone
The title compound, MS: m/e=563.3 (M+), was prepared in accordance with the general method of example 10 from rac-cis-(3,5-bis-trifluoromethyl-phenyl)-[4-(3-bromo-phenyl)-3-phenyl-piperidin-1-yl]-methanone and morpholine.

reactant | rac-cis-(3,5-bis-trifluoromethyl-phenyl)-[4-(3-bromo-phenyl)-3-phenyl-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)C1=CC(=CC=C1)Br)C1=CC=CC=C1)(F)F | C26H20BrF6NO
reactant | morpholine | N1CCOCC1 | C4H9NO
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[4-(3-morpholin-4-yl-phenyl)-3-phenyl-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)C1=CC(=CC=C1)N1CCOCC1)C1=CC=CC=C1)(F)F | C30H28F6N2O2
